US05708174
β(2-Carbomethoxythiophenoxy)propionic acid (6.00 g, 0.025 mol) (I. W. Still and M. J. Thomas J. Org. Chem 1968, 2733) was added slowly to ice cooled conc. sulphuric acid (75 ml) with stirring. After 21 h, the reaction mixture was poured into ice water and then made alkaline using solid sodium hydrogen carbonate. The resultant suspension was then extracted with CH2Cl2 (3x). The combined organic layers were then dried (Na2SO4), and evaporated under reduced pressure to give an orange oil which was dried in vacuo and crystallised on standing to give methylthiochroman-4-one-8-carboxylate (2.40 g, 43%)

reactant | β(2-Carbomethoxythiophenoxy)propionic acid | 0.025 mol, 6.00 g | C(=O)(OC)C1=C(SCCC(=O)O)C=CC=C1 | C11H12O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | methylthiochroman-4-one-8-carboxylate | 2.40 g, 43% | COC(=O)C=1C=CC=C2C(CCSC12)=O | C11H10O3S
